US04146631
A mixture of 3-acetyl-5-ethylsalicylic acid (55.0 g) and N,N'-dicyclohexylcarbodiimide (60.1 g) in dry pyridine (550 ml) was stirred at 25° C. for one hour. Anhydrous 5-aminotetrazole (24.7 g) was then added to the mixture, and stirring was continued at 60° C. for 24 hours. The pyridine was removed in vacuo, and the residue was treated with aqeuous ammonia solution (2N; 500 ml). The resulting slurry was stirred at between 90° and 100° C. for 15 minutes. The insoluble N,N'-dicyclohexylurea was filtered off, and the filtrate was acidified by treatment with concentrated hydrochloric acid. The resulting green precipitate was filtered off and recrystallized twice from aqueous dimethylformamide to give 3-acetyl-5-ethyl-2-hydroxy-N-(tetrazol-5-yl)benzamide (35.4 g), in the form of a pale yellow solid, m.p. 257°-258° C.

reactant | 3-acetyl-5-ethylsalicylic acid | 55.0 g | C(C)(=O)C1=C(C(C(=O)O)=CC(=C1)CC)O | C11H12O4
reactant | N,N'-dicyclohexylcarbodiimide | 60.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-aminotetrazole | 24.7 g | NC1=NN=NN1 | CH3N5
solvent | pyridine | 550 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetyl-5-ethyl-2-hydroxy-N-(tetrazol-5-yl)benzamide | 35.4 g | C(C)(=O)C=1C(=C(C(=O)NC2=NN=NN2)C=C(C1)CC)O | C12H13N5O3
